US08703805B2
To a suspension of 1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazole-3-carboxylic acid (92 mg, 0.2 mmol) in DCM (2 mL) was added carbonyldiimidazole (39 mg, 1.2 equiv) and stirring was continued for 2 h at 20° C. A solution of ethylamine in THF (1.8 M, 0.17 mL, 1.5 equiv) was added and the mixture was stirred overnight at 20° C. Evaporation of solvent gave a crude, which was purified by column chromatography on silica gel eluting with MeOH-DCM (1:19) to afford 1-(2-chlorophenyl)-N-ethyl-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazole-3-carboxamide (84 mg). 1H-NMR (CDCl3): δ 8.03 (m, 1H), 7.83 (m, 1H), 7.74 (m, 1H), 7.62-7.45 (m, 5H), 7.22 (m, 1H), 7.19 (s, 1H), 6.91 (m, 1H), 6.82 (d, 1H), 3.55-3.43 (m, 2H), 3.07 (3 s, H), 1.25 (s, 3H). MS(ES): 486 [M+H]+.

reactant | 1-(2-chlorophenyl)-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazole-3-carboxylic acid | 0.2 mmol, 92 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)O | C21H15ClN2O4S2
reactant | carbonyldiimidazole | 39 mg, 1.2 equiv | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethylamine | C(C)N | C2H7N
reactant | THF | 1.8 M, 0.17 mL, 1.5 equiv | C1CCOC1 | C4H8O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-chlorophenyl)-N-ethyl-5-{5-[3-(methylsulfonyl)phenyl]-2-thienyl}-1H-pyrazole-3-carboxamide | 84 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(=O)(=O)C)C(=O)NCC | C23H20ClN3O3S2
